US09035059B2
Tetraisopropyl orthotitanate (97 μL, 0.33 mmol) and ethyl magnesium bromide (diethyl ether solution, 3 mol/L, 0.25 mL, 0.75 mmol) were added to a solution of 2-[(4-tert-butylphenyl)acetyl]-N-[4-(3-cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (213 mg, 0.30 mmol) in tetrahydrofuran (5 mL) under a nitrogen atmosphere. The mixture was stirred at room temperature for 16 hr. Water and saturated aqueous ammonium chloride solution were added to the reaction mixture and the mixture was stirred and then filtered through Celite (registered trademark). The filtrate was concentrated under reduced pressure, 1 mol/mL aqueous sodium hydroxide solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The desiccant was filtered off, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (hexane only→hexane:ethyl acetate=3:2) to afford 2-[1-(4-tert-butylbenzyl)cyclopropyl]-N-[4-(3-cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide as a pale yellow amorphous substance (142 mg).

reactant | ethyl magnesium bromide | 0.75 mmol, 3 mol/L, 0.25 mL | C(C)[Mg]Br
reactant | 2-[(4-tert-butylphenyl)acetyl]-N-[4-(3-cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)CC(=O)N1CC2=CC=C(C=C2CC1)S(=O)(=O)N(CC1=CC=C(C=C1)OC)C1=C(C=C(C=C1)CCCC1CCCC1)F | C43H51FN2O4S
reactant | Water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | Tetraisopropyl orthotitanate | 0.33 mmol, 97 μL | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 2-[1-(4-tert-butylbenzyl)cyclopropyl]-N-[4-(3-cyclopentylpropyl)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C(C)(C)(C)C1=CC=C(CC2(CC2)N2CC3=CC=C(C=C3CC2)S(=O)(=O)N(CC2=CC=C(C=C2)OC)C2=C(C=C(C=C2)CCCC2CCCC2)F)C=C1 | C45H55FN2O3S
